US04743586
A mixture of 9.1 g of 1-naphthalenemethylamine, 8.4 g of 2,3-dioxobutyric acid, ethyl ester, (Z)-2-oxime and 115 ml of acetonitrile was refluxed for 5 hours and then cooled. The solid was collected, giving 7.0 g of 5-methyl-2-(1-naphthalenyl)-1H-imidazole-4-carboxylic acid, ethyl ester.

reactant | 1-naphthalenemethylamine | 9.1 g | C1(=CC=CC2=CC=CC=C12)CN | C11H11N
reactant | 2,3-dioxobutyric acid, ethyl ester | 8.4 g | O=C(C(=O)OCC)C(C)=O | C6H8O4
reactant | acetonitrile | 115 ml | C(C)#N | C2H3N
product | 5-methyl-2-(1-naphthalenyl)-1H-imidazole-4-carboxylic acid, ethyl ester | 7.0 g | CC1=C(N=C(N1)C1=CC=CC2=CC=CC=C12)C(=O)OCC | C17H16N2O2
